US09034866B2
Synthesis of 3-(difluoromethyl)-8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide
A pressure tube containing a solution of ethyl 3-(difluoromethyl)-8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (11 mg, at 52% purity LCMS-UV215) in methanolic ammonia (5 mL of 7.0M ammonia in methanol) was warmed to 44° C. for 36 hr. Evaporation of the reaction mixture furnished the title compound (12 mg at 80% purity LCMS-UV215) as a colorless solid which was carried through to the next synthetic step without purification: 1H NMR (500 MHz, CDCl3) δ 1.70-1.16 (m, 2H), 2.95-3.02 (m, 2H), 3.59 (td, J=8.2, 3.5 Hz, 1H), 3.86-3.91 (m, 1H), 5.58 (br. s, 1H), 6.86 (d, J=8.6 Hz, 1H), 7.40 (br. s, 1H), 8.71 (d, J=6.6 Hz, 1H), 8.75 (t, J=58.6 Hz, 1H); M+H=434.

reactant | ethyl 3-(difluoromethyl)-8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 11 mg | FC(N1C(=NC2=C1C1CC(C3=C2C=C(C(=C3)F)I)C1)C(=O)OCC)F | C17H14F3IN2O2
reactant | ammonia | 7.0M, 5 mL | N | H3N
product | 3-(difluoromethyl)-8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide | 12 mg, 80% | FC(N1C(=NC2=C1C1CC(C3=C2C=C(C(=C3)F)I)C1)C(=O)N)F | C15H11F3IN3O
